Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w h/o UC s/p lap abdominal colectomy w end ileostomy 
(___), lap proctectomy w IPAA w DLI (___), & ileostomy 
takedown (___) who presents w nausea x1 day and NBNB emesis 
x1 this AM.
Pt reports feeling well 2 days ago. Yesterday had nausea 
throughout the day so did not take psyllium but otherwise ate 
normally. This AM awoke at ~4:30 w nausea & had a large-volume 
emesis described as gastric contents w a few drops of blood at 
the very end. Felt relief immediately. Came to ED. 
Reports mild gas/cramping pain yesterday & today. Last BM was 
here in the ED this AM, which was perhaps a little more liquid 
than his usual BMs, though he does note he did not have his 
psyllium yesterday or today. Has been having ___ BMs/day, has 
been practicing holding since being instructed to do so at his 
clinic appointment 3 days ago & does think it's helpful, and has 
not had any blood in his stools for at least a week. Last ate ~7 
pm last night. Denies fevers, chills, sick contacts. 
To recap pt's recent history, he underwent ileostomy takedown 
___. Was d/c'd home ___. Was seen in ED for ___ 
___. Was seen in clinic for f/u ___ (3d. ago).

 
Past Medical History:
Past Medical History:
-Mood disorder NOS  
-Migraines  
-Ulcerative colitis 

Past Surgical History:
-Spinal fusion surgery for kyphoscoliosis (___)
-Sinus surgery (___)  
-Laparoscopic abdominal colectomy w end ileostomy ___, VP)
-Laparoscopic proctectomy w ileal pouch anal anastomosis & 
diverting loop ileostomy ___, VP)
-Ileostomy takedown ___, TC)

 
Social History:
___
Family History:
(unchanged)
-Sister has UC. 

 
Physical Exam:
Admission Physical Exam:
Vitals: 97.5, 106, 147/86, 14, 100% RA
GEN: A&O, NAD, well-appearing
HEENT: NCAT, EOMI, no scleral icterus, mucus membranes moist
CV: RRR
PULM: Breathing comfortably on room air
ABD: Soft, mild distention (though pt states this is his normal 
belly), nontender, well-healed R & L lateral trocar sites, 
umbilical incision still w steri strip in place but dry & w/o 
signs of infection, RLQ ileostomy site dressing w tiny amount of 
serous drainage on gauze (pt changes daily, states is unchanged)
DRE: deferred (pt is in the hall in the middle of the ED core)
Ext: No ___ edema, 2+ DPs b/l

Discharge Physical Exam:
VS: 98.2/97.7, 86, 114/69, 16, 98% RA
GEN: A&O, NAD  
HEENT: NCAT, EOMI, anicteric  
CV: RRR 
PULM: normal excursion, no respiratory distress  
ABD: Soft, NT, ND. incisions approximated & dry w/o erythema or 
edema. Former ostomy site granulating, dry, no surrounding 
erythema or fluctuance.
EXT: WWP, no CCE 
NEURO: no focal neurologic deficits  
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
___ 06:16AM BLOOD WBC-7.8 RBC-4.90 Hgb-13.6* Hct-42.0 
MCV-86 MCH-27.8 MCHC-32.4 RDW-11.9 RDWSD-36.9 Plt ___
___ 06:35AM BLOOD WBC-4.0 RBC-4.18* Hgb-11.7* Hct-36.5* 
MCV-87 MCH-28.0 MCHC-32.1 RDW-11.9 RDWSD-37.8 Plt ___
___ 06:23AM BLOOD WBC-4.2 RBC-3.79* Hgb-10.6* Hct-33.0* 
MCV-87 MCH-28.0 MCHC-32.1 RDW-11.9 RDWSD-37.8 Plt ___
___ 06:16AM BLOOD Glucose-107* UreaN-9 Creat-1.0 Na-137 
K-5.4* Cl-96 HCO3-19* AnGap-22*
___ 06:35AM BLOOD Glucose-74 UreaN-9 Creat-0.8 Na-139 K-4.1 
Cl-101 HCO3-26 AnGap-12
___ 06:23AM BLOOD Glucose-80 UreaN-6 Creat-0.7 Na-142 K-4.2 
Cl-101 HCO3-28 AnGap-13
___ 06:16AM BLOOD Albumin-4.7
___ 06:35AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.1
___ 06:23AM BLOOD Calcium-9.1 Phos-4.6* Mg-2.0
___ 06:16AM BLOOD ALT-15 AST-23 AlkPhos-59 TotBili-0.4
___ 06:34AM BLOOD Lactate-1.3

___ 06:29AM URINE 
Color-Yellow Appear-Hazy* Sp ___
Blood-NEG Nitrite-NEG Protein-30* Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
RBC-0 WBC-1 Bacteri-FEW* Yeast-NONE Epi-0
CastHy-7* CastCel-101*
Mucous-MANY*
URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Mr. ___ presented to the ___ emergency department on ___ 
with signs, symptoms, and imaging consistent with a small bowel 
obstruction. He was made NPO, given IV fluids, and serially 
examined. Given that his nausea improved and he had no further 
emesis after admission, a nasogastric tube was not placed. 

On hospital day 2, he was less distended, began to pass flatus, 
and was without abdominal pain or nausea. Thus, he was given 
clear liquids, which he tolerated. He was ambulating 
independently and voiding without issue. 

On hospital day ___, he had a bowel movement. He was given a 
regular diet, which he tolerated without issue. He was thus 
discharged to home. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 4 mg PO QHS 
2. BuPROPion (Sustained Release) 100 mg PO BID 
3. LamoTRIgine 300 mg PO QHS 
4. LOPERamide ___ mg PO QID:PRN diarrhea 
5. Psyllium Wafer 1 WAF PO Frequency is Unknown
6. Lovenox 40 mg SC daily x30 days post-op 

 
Discharge Medications:
1.  ARIPiprazole 4 mg PO QHS  
2.  BuPROPion (Sustained Release) 100 mg PO BID  
3.  LamoTRIgine 300 mg PO QHS  
4.  LOPERamide ___ mg PO QID:PRN diarrhea  
5.  Psyllium Wafer 1 WAF PO ASDIR  
6.  Lovenox 40 mg SC daily x30 days post-op 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for conservative management of 
a small bowel obstruction, most likely caused by scar tissue 
(adhesions) from your surgeries. Your bowels have recovered and 
you are now tolerating a regular diet without nausea or pain and 
are passing gas and having bowel movements. You are now safe to 
return home to continue your recovery from your recent surgery. 

You should resume your care as you were prior to this 
hospitalization. This means you can shower but should still not 
submerge in tubs/pools yet. You should continue to put dry gauze 
on your prior ileostomy site to keep your clothes clean and dry 
and prevent rubbing/irritation. You should not lift more than 10 
pounds for another 4 weeks. You should continue to eat a regular 
diet as tolerated. You should have all of your previous 
medications as you were previously taking. You should follow-up 
in clinic as previously planned. 
 
Followup Instructions:
___